US07365090B2
b) 5-(1H-Pyrrol-1-yl)-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide (e.g. Examples 2 and 3)
5-Nitro-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide was reduced 5-amino-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide with hydrogen in the presence of PtO2 (Adams' catalyst) as a catalyst. Transformation into 5-(1H-pyrrol-1-yl)-3-(3,5-dimethyl-phenylsulfonyl)indole-2-carboxylate was performed by heating with 2,5-dimethoxy-tetrahydrofuran in glacial acetic acid (Acta Chem. Scand., 1952, 6, 667-670; Acta Chem. Scand., 1952, 6, 867-874).

reactant | 5-Nitro-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide | [N+](=O)([O-])C=1C=C2C(=C(NC2=CC1)CC(=O)N)S(=O)(=O)C1=CC(=CC(=C1)C)C | C18H17N3O5S
reactant | hydrogen | [H][H] | H2
reactant | 5-(1H-pyrrol-1-yl)-3-(3,5-dimethyl-phenylsulfonyl)indole-2-carboxylate | N1(C=CC=C1)C=1C=C2C(=C(NC2=CC1)C(=O)[O-])S(=O)(=O)C1=CC(=CC(=C1)C)C
reactant | 2,5-dimethoxy-tetrahydrofuran | COC1OC(CC1)OC | C6H12O3
catalyst | PtO2 | O=[Pt]=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(1H-Pyrrol-1-yl)-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide | N1(C=CC=C1)C=1C=C2C(=C(NC2=CC1)CC(=O)N)S(=O)(=O)C1=CC(=CC(=C1)C)C | C22H21N3O3S
